US08802713B2
Then, 0.65 g of 2-acetyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methoxypyrazol-3-one was dissolved in 20 mL of tetrahydrofuran, and 0.2 g of potassium hydroxide was added, followed by stirring at room temperature for 2 hours. Concentrated hydrochloric acid was added to adjust pH to 3, the solvent was distilled off under reduced pressure, and extraction with ethyl acetate was carried out. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.57 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxy-5-methoxypyrazole.

reactant | 2-acetyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methoxypyrazol-3-one | 0.65 g | C(C)(=O)N1N(C(=CC1=O)OC)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F | C15H14F4N2O3S
reactant | potassium hydroxide | 0.2 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxy-5-methoxypyrazole | 0.57 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1OC)O | C13H12F4N2O2S
